Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
promethazine
 
Attending: ___.
 
Chief Complaint:
ICU transfer for hypertensive urgency and Nausea/Vomiting 
 
Major Surgical or Invasive Procedure:
ETT intubation for MRI.
 
History of Present Illness:
The patient is a ___ year old woman with a past medical history 
of DM type 1, PVD, right hip fracture s/p intramedullary nail 
___ c/b malunion with revision ___ admitted with sudden 
onset nausea and emesis.  
.  
The patient reported sudden onset of nausea and emesis this am 
upon awakening. She noted slight loose stools with no 
hematochezia or melena. She denied abdominal pain. Denied chest 
pain or dyspnea. She reports her current sensation is similar to 
her prior episodes of gastroparesis. Denies fever or chills.  
.  
In the ED, initial VS: T 96.6, BP: 213/101, HR: 66, RR: 16, O2: 
98% RA. She was given 2L NS. She also received 8mg IV zofran and 
25mg phenergan. She received hydralazine with repeat BP of 
184/98. She was also noted to be forcing emesis while in the ED 
by nursing. Labs notable for WBC 6.4, Chem 7 notable for an AG 
of 18, improved to 15 following IVF in ED.  
.  
On the floor, she reports nausea and emesis. Reports mild 
epigastric pain. During the evaluation she has emesis x 3. No 
hematemesis. Denies chest pain or shortness of breath. Denies 
dysuria or urinary frequency.  
.
Given persistent hypertensive urgency, with limited treatment 
options on the floor (not tolerating po, IV labetalol or nitro 
gtt not possible) she is being transferred to ICU for BP 
treatment and close monitoring of symptoms.
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria. Remained per HPI.  
 
Past Medical History:
- h/o DVT
- DMI on insulin pump  
- Peripheral neuropathy
- h/o gastroparesis
- Chronic LBP/sciatica
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD
- Autonomic dysfunction, orthostatic hypotension
- History of seizure ___ characterized by becoming less 
responsive, oriented to name only, gaze deviation and left arm 
shaking. ___ 297 and was in the setting of receiving cipro, Neuro 
felt ___ infection vs PRES.
- Barretts Esophagus on EGD ___
- Depression
.  
PAST SURGICAL HISTORY:  
___ - Malunion right intertrochanteric hip fracture with 
protrusion of screw s/p revision arthroplasty  
___ Comminuted right intertrochanteric hip fracture s/p right 
hip fracture open reduction internal fixation (intramedullary 
nail)  
___ RLE angiography  
RLE SFA-AT BPG with NRSVG ___  
Angioplasty of vein graft ___  
___, L hip hemiarthroplasty  
- Hiatal hernia  
- s/p laminectomy
- s/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. Father - coronary artery disease with MI in her ___, died at 
age ___.  

 
Physical Exam:
Admission Physical Exam:

VS: Tc: 99.5, BP: 200/91, HR: 100, RR: 22, O2: 95% RA.  
GENERAL: no acute distress  
HEENT: NC/AT, PERRLA, EOMI, mild conjunctival suffusion, dry MM, 
OP clear.  
NECK: Supple, no JVD.  
HEART: RRR, soft systolic murmur, nl S1-S2.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft, mild epigastric/RUQ TTP, no rebound/guarding  
EXTREMITIES: WWP, no c/c/e, R hip well-healed, no erythema or 
TTP, decreased R ___  
SKIN: faint maculopapular rash over bilateral UE, eschar over 
lateral heel - no erythema, no drainage  
LYMPH: No cervical LAD  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact

Discharge Physical Exam:
VS: Tc: 98.0, Tm:98.1 BP: 131/58, HR: 87, RR: 18, O2: 100% RA.  
GENERAL: NAD, conversational  
HEENT: NC/AT, anicteric sclera, MMM, pharynx clear.  
NECK: Supple, no JVD.  
HEART: RRR, soft systolic murmur, nl S1-S2.  
LUNGS: CTAB, no w/r/r  
ABDOMEN: Soft, NT/ND, normal BS, no organomegaly  
EXTREMITIES: Minor soreness of b/l calves but no ___ 
tenderness, no unilateral edema or discoloration, decreased 
distal pulses R>L  
SKIN: 1.5-2cm ulcer on posterior R heel with overlying black 
eschar no signs of infection  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact
  
 
Pertinent Results:
LABS:  
CBC WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct  
___ 9.5 4.59 14.0 43.4 94 30.5 32.3 15.1 292  
.  
DIFF Neuts Lymphs Monos Eos Baso  
___ 84.6* 10.7* 3.2 0.6 1.0  
.  
CHEM 7 Glucose UreaN Creat Na K Cl HCO3 AnGap  
___ 137 4.1 97 24 20  
___ 135 ___ * 23*  
.  
LFTS ALT AST AlkPhos  
___  
.  
Lipase  
___ 17  
.  
CPK ISOENZYMES cTropnT  
___ <0.011  

CXR ___ - IMPRESSION: No effusion, edema or pneumonia.  
.  
R Femur ___ - There is again seen an intramedullary rod with 
distal interlocking screw and proximal pin fixating an 
intertrochanteric fracture of the right proximal femur. There is 
good bridging callus at the site of the injury. There are no 
signs for hardware-related complications. A vascular stent is 
seen within the medial soft tissues, likely within the femoral 
artery. No kinks within the  
stent is seen. The stent within the popliteal artery below the 
level of the knee joint, which is also intact and without kinks. 
 
.  
ECG: ___ - NSR, LAD, TWI III, ST dep V5-V6 w/ increase from 
prior ___  
.
CXR (___):
Cardiomediastinal contours are within normal limits allowing for 

accentuation by extreme lordotic projection and portable 
technique. Lungs are grossly clear except for a questionable new 
patchy opacity in the left 
retrocardiac region. Standard PA and lateral chest radiographs 
may be helpful to better evaluate this region and to exclude the 
possibility of a developing pneumonia at this site. 
.
CT Head (___):  No acute intracranial process.
.
CXR (___):  
Compared with ___, an ET tube has been placed. The tip lies 
in satisfactory position approximately 4.1 cm above the carina. 
Minimal bibasilar atelectasis of both lung bases again noted, 
without significant interval change. No ___ consolidation. 
Incidental note is made of marked degenerative changes about the 
right glenohumeral joint, incompletely evaluated. 
.
MRA Neck (___):
Bilateral carotid stenosis, left greater than right, partially 
evaluated due to motion artifacts, please consider obtaining the 
carotid Doppler ultrasound if clinically warranted. 
.
MRI Head (___):
Lacunar ischemic change is demonstrated on the left pons, 
apparently new since the prior examination. Stable lacunar 
ischemic changes identified at the posterior limb of the left 
internal capsule and lentiform nucleus. No diffusion 
abnormalities are detected to suggest acute or subacute ischemic 
changes. 
.
Carotid US (___):  Right ICA <40% stenosis. Left ICA 60-69% 
stenosis. 
.
CXR (___):
1. Interval removal of the endotracheal tube. 
2. Stable mild pulmonary edema. 
.
CXR (___): 1. New left PICC, at the level of the mid SVC. No 
pneumothorax. 2. Stable mild cardiomegaly.  

DISCHARGE LABS:

___ 06:00AM BLOOD WBC-6.0 RBC-3.30* Hgb-10.2* Hct-30.8* 
MCV-94 MCH-30.8 MCHC-33.0 RDW-14.5 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD
___ 06:00AM BLOOD Glucose-292* UreaN-27* Creat-1.2* Na-134 
K-4.4 Cl-96 HCO3-30 AnGap-12
___ 06:00AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.8
___ 9:54 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH
 
Brief Hospital Course:
___ year old woman with DM type 1, PVD with significant RLE 
ischemia, R hip revision ___ admitted with N/V and abdominal 
pain and transferred to the MICU for hypertensive emergency.  

# Hypertensive Urgency/Emergency - The patient had increased 
BP's of 210's/100's in the setting of N/V, improved with 
hydralazine in ED. She has recently been off of home BP meds 
with well controlled BP's.  She was on a labetalol gtt for 
titration to BP's, and was transitioned to Chlorthalidone which 
was uptitrated as she was weaned off Labetalol gtt. She was 
previously on Lisinopril and clonidine patch as an outpatient, 
and the clonidine patch was re-started in-house and d/c'd prior 
to dispo. Her BP's came under better control and her dose of 
chlorthalidone was halved prior to discharge to prevent 
hypotension with good outpatient follow-up scheduled.

# Aphasic Episodes - AMS able to follow commands but not able to 
speak, SBP 198.  Fingerstick nl.  Labetalol 10mg IV given, gtt 
started.  CT head obtained, no acute process.  
- Had another episode of aphasia at 2pm with normal neuro exam, 
able to follow commands, but did not remember event 
subsequently.  Lasted ~20 mins and slowly recovered.  MRI head 
and continuous EEG ordered 
The patient had Suspect this is due to high BPs as pt has had no 
repeat episodes with BPs in the 160 range. Neurology called 
yesterday stating no seizure activity on EEG, can d/c EEG. 
Neurology signing off. No further episodes occurred prior to 
d/c.
.  
# N/V - Pt presented with N/V and mild abdominal pain similar to 
her prior flares of gastroparesis.  She was dehydrated on 
initial admission which improved with IVF.  She was continued on 
her home gastroparesis medications with subsequent improvement 
of her n/v and abdominal symptoms.  She was hydrated with IVF 
and diet was advanced without incident.  Of note, she had no 
clear EKG changes from prior with exception of increase ST 
depressions in the setting of hypertension with negative CE's.  
She had stool studies and cultures sent which were negative.
.  
# PVD - pt has severe ischemic rest pain of her right foot and 
nonhealing pressure ulcer of her right heel. Arteriography 
showed peripheral arterial disease and she was scheduled to have 
a fem-distal anterior tibial bypass by Dr. ___ in the 
near future, and Dr. ___ was emailed.  Her ulcer had no 
evidence of infection. She is scheduled to f/u with ___ 
___ to reschedule the surgery.  
.  
# DM Type 1 - Patient was initially in DKA which resolved on 
admission to the MICU and she was covered with ISS and Glargine. 
 The patient was subsequently continued on SSI and continued her 
home glargine rather than her home insulin pump initially, per 
patient request.  She was restarted on her home insulin pump 
prior to callout from the MICU, per patient preference, and 
___ was consulted. Recommendations were implemented and a 
follow-up appointment was set up on day of discharge.
.
# CODE: Full  
 
Medications on Admission:
CITALOPRAM - 40 mg Tablet - 1 Tablet(s) by mouth once a day  
CYCLOSPORINE [RESTASIS]  
GABAPENTIN - 800 mg Tablet - 1 Tablet(s) by mouth qam  
GLUCAGON (HUMAN RECOMBINANT) - 1 mg Kit - inject as directed for 
 
low blood sugar  
INSULIN GLARGINE [LANTUS] - 100 unit/mL Solution - 5 units at 
bedtime  
INSULIN LISPRO [HUMALOG] - 100 unit/mL Cartridge - on insulin 
pump basal rate  
LEVOTHYROXINE [LEVOXYL] - 88 mcg Tablet - 1 Tablet daily  
LORAZEPAM - 1 mg Tablet - 1 Tablet(s) by mouth every six (6)  
hours as needed for anxiety  
METOCLOPRAMIDE - 10 mg Tablet - 1 (One) Tablet(s) by mouth 30  
minutes before meals  
MORPHINE - 30 mg Tablet Extended Release - 2 Tablet(s) by mouth  

QAM and 1 tab QPM  
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 1 Capsule(s) 
 
by mouth once a day  
OXYCODONE - 10 mg Tablet - ___ to 1 Tablet(s) by mouth every ___ 
 
hours as needed for pain  
SIMVASTATIN [ZOCOR] - 40 mg Tablet - 1 Tablet(s) by mouth qpm  
TRAVOPROST [TRAVATAN Z] - 0.004 % Drops - 1 drop ___ daily  
CALCIUM CITRATE-VITAMIN D3 [CITRACAL + D]  
CARBOXYMETHYLCELLULOSE SODIUM [REFRESH] - 1 % Drops - as needed  

CHOLECALCIFEROL (VITAMIN D3) - 400 unit Capsule - 1 Capsule(s) 
by mouth once a day  
CYANOCOBALAMIN (VITAMIN B-12) - 1,000 mcg Tablet - 1 Tablet(s) 
by mouth once a day  
FOLIC ACID - Dosage uncertain  
MULTIVITAMIN - (OTC) - Capsule - 1 Capsule(s) by mouth qam  
OMEGA-3 FATTY ACIDS [FISH OIL]  
SODIUM CHLORIDE - 1 gram Tablet - 1 Tablet(s) by mouth twice a  
day
 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. gabapentin 400 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
3. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. chlorthalidone 50 mg Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*0*
6. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
7. insulin lispro 100 unit/mL Cartridge Sig: PUMP  Subcutaneous 
continuous: Continue your current regimen with your insulin 
pump.  
8. morphine 30 mg Tablet Extended Release Sig: Two (2) Tablet 
Extended Release PO QAM (once a day (in the morning)).  
9. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO QPM (once a day (in the evening)).  
10. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
11. insulin glargine 100 unit/mL Solution Sig: Seven (7) Units 
Subcutaneous at bedtime.  
12. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*2*
13. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
14. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
15. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for anxiety.  
16. Calcium 500 + D 500 mg(1,250mg) -400 unit Tablet Sig: One 
(1) Tablet PO once a day.  
17. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
18. Omega 3 Fish Oil 684-1,200 mg Capsule, Delayed Release(E.C.) 
Sig: One (1) Capsule, Delayed Release(E.C.) PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary:
Gastroparesis
Hypertensive Emergency

Secondary:
Diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with nausea and vomiting. This 
was related to your gastroparesis. You were treated for reglan 
and bowel rest and your symptoms improved. You also had very 
high blood pressures while you were in the hospital which 
required a transfer to the intensive care unit. When you had 
high blood pressures you had a couple of episodes when you had 
difficulty speaking and confusion. You were evaluated by 
neurology and had an EEG and MRI of your brain which showed no 
stroke or seizure activity. The episodes are believed to be 
related to your high blood pressure. You were started on 
medications for your blood pressure and it improved.

As you were acutely sick in the hospital you were unable to have 
your bypass surgery. Please follow up with Dr. ___ to 
reschedule this procedure.

We have made the following changes to your medications:
- START taking chlorthalidone for your blood pressure
- START taking lisinopril for your blood pressure
- START taking baby Aspirin daily
- CHANGE your dose of glargine insulin to 7 units daily
- STOP taking Sodium Chloride Tablets

It was a pleasure taking care of you at the ___. We wish you a 
speedy recovery.
 
Followup Instructions:
___